US07179804B2
1-[4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazole-4-carbonyl]-3-(2-chloro-phenyl)-isoxazol-5-yl]-ethanone
Add Dess-Martin periodinane (27.0 mg, 0.064 mmol) to a solution of [1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazol-4-yl]-[3-(2-chloro-phenyl)-5-(1-hydroxy-ethyl)-isoxazol-4-yl]-methanone (20.0 mg, 0.032 mmol). Stir at RT for 1 h., then concentrate in vacuo and dilute the residue with ether and wash with saturated aqueous sodium bicarbonate solution. Dry the organic layer with anhydrous MgSO4, filter, and concentrate in vacuo. Purify the residue by flash chromatography on silica gel to provide the title compound (99% yield) as a brown oil. MS (ES) 628.1 (M++1); TLC Rf=0.1 (50% EtOAc in hexanes).

reactant | Dess-Martin periodinane | 0.064 mmol, 27.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazol-4-yl]-[3-(2-chloro-phenyl)-5-(1-hydroxy-ethyl)-isoxazol-4-yl]-methanone | 0.032 mmol, 20.0 mg | FC(C=1C=C(CN2N=NC(=C2N2CCOCC2)C(=O)C=2C(=NOC2C(C)O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H22ClF6N5O4
product | 1-[4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-morpholin-4-yl-1H-[1,2,3]triazole-4-carbonyl]-3-(2-chloro-phenyl)-isoxazol-5-yl]-ethanone | 99% yield | FC(C=1C=C(CN2N=NC(=C2N2CCOCC2)C(=O)C=2C(=NOC2C(C)=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H20ClF6N5O4
